US03947520
A mixture of 11.65 g. of 4-(m-methoxyphenyl-1-(p-methoxyphenyl)-2-phenyl-1-butanone and 13.6 g. of aluminum chloride in 270 ml. of benzene was heated at reflux for 31/2 hours. The solution was allowed to cool and washed in turn with 2.5 N hydroxhloric acid, water and a saturated solution of sodium chloride. The organic layer was then extracted with 5 portions of 110 ml. each of N sodium hydroxide. Acidification of this last extract gave 11.04 g. of the crude phenol. A single recrystallization from aqueous methanol afforded 8.42 g. of 1(p-hydroxyphenyl)-4-(m-methoxyphenyl)-2-phenyl-1-butanone, m.p. 125°-129° C. (yield, 75%)

reactant | m-methoxyphenyl-1-(p-methoxyphenyl)-2-phenyl-1-butanone | COC=1C=C(C=CC1)C(C(=O)C1=CC=C(C=C1)OC)(CC)C1=CC=CC=C1 | C24H24O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 1(p-hydroxyphenyl)-4-(m-methoxyphenyl)-2-phenyl-1-butanone | OC1=CC=C(C=C1)C(C(CCC1=CC(=CC=C1)OC)C1=CC=CC=C1)=O | C23H22O3
